US08530456B2
(S)-tert-butyl 3-((R)-2-(pent-4-enoyloxy)-2-phenylethylcarbamoyl)hex-5-enoate
To a solution of 4-pentenoic acid (0.335 mL, 3.28 mmol) in DMF (31.6 mL) cooled in an ice/water bath was added EDC (630 mg, 3.28 mmol) and the resulting solution was stirred 30 min. (S)-tert-butyl 3-((R)-2-hydroxy-2-phenylethylcarbamoyl)hex-5-enoate (730 mg, 2.19 mmol), iPr2NEt (1.14 mL, 6.57 mmol) and DMAP (26.7 mg, 0.219 mmol) were subsequently added and the reaction mixture was slowly warmed to rt and stirred for 16 h at which point LC-MS analysis indicated complete consumption of starting material. The reaction mixture was diluted with saturated NH4Cl and EtOAc and the layers separated. The aqueous was extracted 2× with EtOAc and the combined organic extracts were washed with 1N HCl and brine, dried over Na2SO4, filtered, and concentrated. The crude product was purified using silica gel chromatography (MeOH/CH2Cl2 gradient) to yield 670 mg of desired product as a colorless oil in 74% yield. LRMS (M+Na)+: 430.0.

reactant | 4-pentenoic acid | 3.28 mmol, 0.335 mL | C(CCC=C)(=O)O | C5H8O2
reactant | EDC | 3.28 mmol, 630 mg
reactant | (S)-tert-butyl 3-((R)-2-hydroxy-2-phenylethylcarbamoyl)hex-5-enoate | 2.19 mmol, 730 mg | O[C@@H](CNC(=O)[C@H](CC(=O)OC(C)(C)C)CC=C)C1=CC=CC=C1 | C19H27NO4
reactant | iPr2NEt | 6.57 mmol, 1.14 mL | CCN(C(C)C)C(C)C | C8H19N
solvent | DMF | 31.6 mL | CN(C)C=O | C3H7NO
catalyst | DMAP | 0.219 mmol, 26.7 mg | CN(C)C=1C=CN=CC1 | C7H10N2
product | (S)-tert-butyl 3-((R)-2-(pent-4-enoyloxy)-2-phenylethylcarbamoyl)hex-5-enoate | 670 mg, 74% yield | C(CCC=C)(=O)O[C@@H](CNC(=O)[C@H](CC(=O)OC(C)(C)C)CC=C)C1=CC=CC=C1 | C24H33NO5
